US04897405
Preparation of 1-Bromo-2-naphthalenemethanol
Potassium hydroxide (25.3 g, 0.45 mol) was added to a solution of 1-bromo-2-naphthalenemethanol acetate (105 g, 0.38 mol) in methanol (300 mL) at room temperature. The resulting yellow solution was stirred at room temperature for 3 hours, then diluted with water and a precipitate was formed. The mixture was extracted with ether (2×300 mL), and the combined organic layers were washed with water (250 mL), brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The pure product was obtained as a light yellow solid (86.8 g, 96%).

reactant | Potassium hydroxide | 0.45 mol, 25.3 g | [OH-].[K+]
reactant | 1-bromo-2-naphthalenemethanol acetate | 0.38 mol, 105 g | C(C)(=O)OCC1=C(C2=CC=CC=C2C=C1)Br | C13H11BrO2
solvent | methanol | 300 mL | CO | CH4O
solvent | water | O | H2O
product | 1-Bromo-2-naphthalenemethanol | 86.8 g, 96% | BrC1=C(C=CC2=CC=CC=C12)CO | C11H9BrO
